US06197973B1
2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoyl chloride
A solution of 8 g (22 mmol) of 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoic acid in 100 ml of toluene was treated with 1 drop of dimethylformamide and 8.6 g (67 mmol) of oxalyl chloride. After the mixture had been stirred for 30 minutes at reflux temperature, it was cooled and concentrated. Yield: quantitative.

reactant | 2-chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoic acid | 22 mmol, 8 g | ClC1=C(C(=O)O)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H7Cl2F3N2O3
reactant | oxalyl chloride | 67 mmol, 8.6 g | C(C(=O)Cl)(=O)Cl | C2Cl2O2
solvent | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
catalyst | dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
product | 2-Chloro-5-(4-chloro-5-difluoromethoxy-1-methyl-1H-pyrazol-3-yl)-4-fluorobenzoyl chloride | Yield: quantitative | ClC1=C(C(=O)Cl)C=C(C(=C1)F)C1=NN(C(=C1Cl)OC(F)F)C | C12H6Cl3F3N2O2
